Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ PMHx "atypical" parkinsonism who
presents to the ___ ___ following 3 falls in the past week. Pt
is accompanied by her daughter, who assists with providing the
history.

Pt was diagnosed with "atypical" parkinsonism ___ years ago and
follows with Movement Disorders at ___ (Dr.
___ Dr. ___. She was last seen in clinic in
___. She initially has symptoms of slowed gait with 
stooped
posture. Over the past year, she has had progressive stiffness 
of
the left side of her body. She walked with a walker and is
confined to the first floor of her house because she cannot go 
up
and down stairs. She also has cognitive decline and laughs
inappropriately at times. She drools frequently and coughs while
eating, yet passed a recent barium swallow done 2 weeks ago. She
had home physical, occupational and speech and swallow therapy
but this was discontinued 3 weeks ago because pt went on a
vacation (home care services states that if she can go on
vacation, she does not need home care, per daughter).

Over the past several months, pt has been falling ___. Pt
does not have 24hr supervision at home but declines 24hr
assistance or moving to an assisted living facility (daughter 
has
recommended this). 

Last week, pt fell while at the ___ theatre. Pt was in the
bathroom pulling up her pants when she slipped and fell onto the
ground. She denied a prodrome. Also during this past week, pt
lost balance while walking on the mulch in her home and fell. On
the day of presentation, she was changing while on her bed and
lost balance and fell. Daughter is concerned due to this
increasing fall frequency so brought pt into the ED.

On neurologic review of systems, the patient reports chronic 
poor
vision in her right eye. She has chronic numbness in her left
leg. Pt denies headache or lightheadedness. Denies difficulty
with producing or comprehending speech. Denies diplopia, 
vertigo,
tinnitus, or hearing difficulty. Denies focal muscle weakness.
Denies bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.
 
Past Medical History:
Atypical parkinsonism
HLD
Macular degeneration (R eye)
Left total hip arthroplasty 
 
Social History:
___
Family History:
Brother: ___ disease
No family history of stroke, seizure, or other neurological 
disease.
No family history of heart disease or cancer.
 
Physical Exam:
=== INITIAL PHYSICAL EXAM ===
Vitals: 96.4 85 127/80 16 99% RA 
General: NAD, resting in bed, comfortable, well groomed, 
pleasant
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
**Daughter (ICU nurse at ___ states all deficits on exam are
chronic**

- Mental Status - Awake, brightly alert, oriented to person,
place and time. Inattentive with history, unable to state ___
backwards. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Content of speech
demonstrates intact naming (names all items on stroke card) and
no paraphasias. Normal prosody. No evidence of hemineglect. No
left-right agnosia. +glabellar. 

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
She will move her head with her eyes when checking EOM. She has
an incomplete range of ocular pursuits both horizontally and
vertically. Square-wave jerk nystagmus on forward gaze. V1-V3 
without deficits to pinprick bilaterally. Mild hypomimia. L NLFF 
but activates well (daughter states this has been present for >6 
months). Mild dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk. +cupping of hand on left. +moderate
ridigity without augmentation in left arm and leg. No resting or
intention tremor. Spontaneous dystonic movements of left arm, 
"alien limb"-like.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  4+  5    5  5     5     5

- Sensory - Decreased sensation to pinprick in the left foot in 
a
stocking distribution (90% relative to R, which is 100%).
Proprioception is intact at the great toe bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   2
R  3  2    3    3   2
Plantar response mute bilaterally.

- Coordination - Evaluation of LUE limimted due to alien 
limb/dystonic phenomenon. No dysmetria in the RUE. +bradykinesia 
and low amplitude
with RAM in the LUE. Possible scanning speech (daughter states
this is baseline).

- Gait - Ambulates with a walker. Takes short steps with a
stooped gait.

=== DISCHARGE EXAM ===
Completely unchanged. 

 
Pertinent Results:
=== LAB ===
___ 05:35AM BLOOD WBC-6.7 RBC-4.47 Hgb-13.6 Hct-41.3 MCV-92 
MCH-30.4 MCHC-32.9 RDW-12.2 RDWSD-40.9 Plt ___
___ 03:37PM BLOOD ___ PTT-31.3 ___
___ 03:37PM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-93 UreaN-15 Creat-0.7 Na-139 
K-4.4 Cl-102 HCO3-27 AnGap-14
___ 05:35AM BLOOD Calcium-9.9 Phos-4.8* Mg-2.1
___ 03:37PM BLOOD ALT-9 AST-26 AlkPhos-89 TotBili-0.4
___ 03:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:05PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-SM 
___ 06:05PM URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE Epi-1 
TransE-<1
___ Urine culture pending. 

== IMAGING ==
CT Spine: No fracture or malalignment.
CT Head: No acute intracranial process.
XR Hip: No acute fracture or dislocation.  Status post left 
total hip arthroplasty without hardware complications. 
CT Chest: No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of atypical 
Parkinsonism followed by Neurology at ___, who 
presented with increased frequency of falls over the past one 
week, found to have UTI.
Her labs were remarkable only for a possible UTI. She was 
treated with ceftriaxone for 2 days, and discharged on 3 more 
days of nitrofurantoin for a total 5 day course.  
- Continue all home medications. 
- Nitrofurantoin monohydrate 100mg BID for 3 days post-discharge 
(___) for UTI. 
- F/u urine culture. 

Plan: 
#Atypical Parkinsonism Syndrome/Corticalbasal Degeneration:
- Evaluation in the hospital notable for asymmetric 
parkinsonism, with LUE apraxia and failure to respond to sinimet 
trial.  Most concerning for CBD, but other tauopathies possible. 
 
- Recommended rehab per ___.
- Can consider sinemet wean on outpatient basis given failure of 
response.

# UTI:
-Urine is showing possible infection with WBC >7 which may also 
have contributed to patient's increased falls. 
-Received 2 Days ceftriaxone, with plan to transition to PO 
nitrofurantoin to complete course.  Nitrofurantoin monohydrate 
100mg BID for 3 days post-discharge (___) for UTI. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Donepezil 10 mg PO DAILY 
3. Sertraline 25 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 3 
Days 
Start ___.  Atorvastatin 40 mg PO QPM  
3.  Carbidopa-Levodopa (___) 1 TAB PO TID  
4.  Donepezil 10 mg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO BID  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Atypical Parkinsonism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms ___, 
You were admitted to the hospital for symptoms related to your 
atypical Parkinsonism, including increased falls. You were also 
found to have a urinary tract infection, for which you were 
given IV antibiotics for 2 days, and you will continue oral 
antibiotics for another 3 days. You were seen by physical 
therapy who thought you would benefit from an ___ 
rehabilitation program. 

- Continue all of your home medications. 
- Take Macrobid (nitrofurantoin 100mg) TWICE PER DAY for the 
next 3 days, starting ___. This is an antibiotic for your 
urinary infection. 

 
Followup Instructions:
___